US03989707
A mixture of 7 parts of 1-chloro-4,4-bis(4-fluorophenyl)-butane, 5.75 parts of 5,6-dichloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 8 parts of sodium carbonate and 100 parts of 4-methyl-2-pentanone is stirred and refluxed for 12 hours with water-separator. The reaction mixture is cooled to room temperature and water is added. The organic layer is separated, dried, filtered and evaporated. The oily residue is purified by column-chromatography over silicagel, using a mixture of trichloromethane and 10% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The solid residue is crystallized successively: once from 4-methyl-2-pentanone and twice from 2-propanol, yielding 5,6-dichloro-1{1-8 4,4-bis(4-fluorophenyl)butyl]-4-piperidinyl}-1,3 -dihydro-2H-benzimidazol-2-one 2-propanolate; mp. 182.5-184.2° C.

reactant | 1-chloro-4,4-bis(4-fluorophenyl)-butane | ClCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15ClF2
reactant | 5,6-dichloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1Cl | C12H13Cl2N3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | 1,3 -dihydro-2H-benzimidazol-2-one 2-propanolate | CC(C)[O-].N1C(NC2=C1C=CC=C2)=O | InChI=1S/C7H6N2O.C3H7O/c10-7-8-5-3-1-2-4-6(5)9-7;1-3(2)4/h1-4H,(H2,8,9,10);3H,1-2H3/q;-1
